US07595398B2
4-tert-Butyl-thiazol-2-ylamine
1-Bromo-3,3-dimethyl-butan-2-one (300 mg, 1.7 mmol) was dissolved in 10 mL of EtOH. To this solution was added thiourea (1.7 mmol, 129 mg) followed by NaOAc (3.4 mmol, 279 mg). This mixture was stirred at room temperature overnight. The reaction mixture was evaporated under reduced pressure and used without any further purification.

reactant | 1-Bromo-3,3-dimethyl-butan-2-one | 1.7 mmol, 300 mg | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | thiourea | 1.7 mmol, 129 mg | NC(=S)N | CH4N2S
reactant | NaOAc | 3.4 mmol, 279 mg | CC(=O)[O-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-tert-Butyl-thiazol-2-ylamine | C(C)(C)(C)C=1N=C(SC1)N | C7H12N2S
